US05885999
c) N-[2-(4-t-Butoxycarbonylpiperazin-1-yl)phenylmethyl]methanesulfonamide
Methanesulfonyl chloride (0.186 mL, 275 mg, 2.4 mmol) was added dropwise to a stirred, cooled (0° C.) solution of 2-(4-t-butoxycarbonylpiperazin-1-yl)phenylmethylamine (0.58 g, 2 mmol) and pyridine (0.32 mL, 0.32 g, 4 mmol) in dichloromethane (10 mL) and the mixture was stirred at room temperature for 3 h. Further methanesulfonyl chloride (0.046 mL, 69 mg, 0.6 mmol) was added and the mixture was stirred at room temperature for 3 h. Water (1 mL) was added and the solvent was evaporated under reduced pressure. Aqueous sodium hydrogen carbonate (saturated, 20 mL) and water were added and the mixture was extracted with ethyl acetate (3×20 mL). The combined organic fractions were washed with aqueous citric acid (10%, 2×20 mL), aqueous sodium hydrogen carbonate (saturated, 2×20 mL) and brine (20 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by MPLC on silica gel, eluting with CH2Cl2 /MeOH/NH3 (Aq.) (99:1:0.1) to give the title compound as a colorless solid (344 mg, 47%), δH (250 MHz, CDCl3) 7.33 (2H, m), 7.15 (2H, m), 5.80 (1H, br t, J 4.0 Hz), 4.40 (2H, d, J 4.0 Hz), 3.60 (4H, br t, J 3.4 Hz), 2.88 (4H, t, J 3.4 Hz), 2.82 (3H, s), and 1.49 (9H, s). m/e (ES+) 370 (MH+).

reactant | Methanesulfonyl chloride | 2.4 mmol, 0.186 mL, 275 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(4-t-butoxycarbonylpiperazin-1-yl)phenylmethylamine | 2 mmol, 0.58 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)CN | C16H25N3O2
reactant | pyridine | 4 mmol, 0.32 mL, 0.32 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.6 mmol, 0.046 mL, 69 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 1 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[2-(4-t-Butoxycarbonylpiperazin-1-yl)phenylmethyl]methanesulfonamide | 344 mg, 47% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)CNS(=O)(=O)C | C17H27N3O4S
